US04411925
N-Benzyloxycarbonyl-D-norvaline (0.1 mole), prepared from commercial D-norvaline by the procedure of Example 19, is reacted with cis/trans 2,2,4,4-tetramethyl-3-hydroxycyclobutylamine by the method of Example 20, Part A, to provide the N-Cbz-norvaline amide.

reactant | N-Benzyloxycarbonyl-D-norvaline | 0.1 mole | C(C1=CC=CC=C1)OC(=O)N[C@H](CCC)C(=O)O | C13H17NO4
reactant | D-norvaline | N[C@H](CCC)C(=O)O | C5H11NO2
reactant | trans 2,2,4,4-tetramethyl-3-hydroxycyclobutylamine | CC1([C@H](C([C@@H]1O)(C)C)N)C | C8H17NO
product | N-Cbz-norvaline amide | C(=O)(OCC1=CC=CC=C1)NC([C@@H](N)CCC)=O | C13H18N2O3
